US06881733B1
1-(2-bromo-4-fluorophenoxy)-2-propanone
A mixture of 1.9 gm (10 mMol) 2-bromo-4-fluorophenol, 0.92 gm (10 mMol) chloroacetone, 0.1 gm potassium iodide, and 1.4 gm (10 mMol) potassium carbonate in 100 mL tetrahydrofuran was heated at reflux for 4 hours. The mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane and 1 N sodium hydroxide. The phases were separated and the aqueous phase extracted well with dichloromethane. The organic phases were combined, washed with 1 N sodium hydroxide, dried over sodium sulfate and concentrated under reduced pressure. The residual was subjected to silica gel chromatography, eluting with hexane containing 20% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 2.7 gm (100%) of the desired compound as a white solid.

reactant | 2-bromo-4-fluorophenol | 10 mMol, 1.9 gm | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | chloroacetone | 10 mMol, 0.92 gm | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 10 mMol, 1.4 gm | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | potassium iodide | 0.1 gm | [I-].[K+]
product | 1-(2-bromo-4-fluorophenoxy)-2-propanone | 2.7 gm, 100% | BrC1=C(OCC(C)=O)C=CC(=C1)F | C9H8BrFO2
